US03954757
A solution of 13.1 g of 2-methylindole in 175 ml of warm methanol is added to a well-stirred solution of 50 g of potassium iodide and 25.4 g of iodine in 150 ml of water. This mixture is further treated with a hot solution of 10.2 g of 2-imidazolidinethione in 150 ml of warm methanol. The reaction is carried out and worked up in the manner described under Example 1 to yield 2-methyl-3-(2-imidazolin-2-ylthio)-indole hydriodide which melts at 227°-228° (with decomposition) after recrystallization from a mixture of methanol, ethyl acetate and ether.

reactant | 2-methylindole | 13.1 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | potassium iodide | 50 g | [I-].[K+]
reactant | iodine | 25.4 g | II | I2
reactant | 2-imidazolidinethione | 10.2 g | N1C(NCC1)=S | C3H6N2S
solvent | methanol | 175 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 2-methyl-3-(2-imidazolin-2-ylthio)-indole hydriodide | I.CC=1NC2=CC=CC=C2C1SC=1NCCN1 | InChI=1S/C12H13N3S.HI/c1-8-11(16-12-13-6-7-14-12)9-4-2-3-5-10(9)15-8;/h2-5,15H,6-7H2,1H3,(H,13,14);1H
